US07265120B2
A solution of 3-amino-5-(4-fluorophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarbonitrile (30 mg) in 28% hydrogen bromide solution of AcOH (2 ml) was stirred at 25° C. for 3 hours. Water, aq. NaHCO3 and EtOAc were added to the reaction mixture. The organic layer was separated, and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of CHCl3 and MeOH. The fractions were concentrated in vacuo to obtain 3-amino-5-(4-fluorophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxamide (30 g) as white powder.

reactant | 3-amino-5-(4-fluorophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarbonitrile | 30 mg | NC=1C(=NC(=C(N1)C1=CC=C(C=C1)F)C1=NN(C(C=C1)=O)C(C)C)C#N | C18H15FN6O
reactant | AcOH | 2 ml | CC(=O)O | C2H4O2
reactant | Water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | hydrogen bromide | Br | BrH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-amino-5-(4-fluorophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxamide | 30 g | NC=1C(=NC(=C(N1)C1=CC=C(C=C1)F)C1=NN(C(C=C1)=O)C(C)C)C(=O)N | C18H17FN6O2
